US07141699B1
A mixture of 3-methyl-2-cyclopentenone 24.5 g (0.25 mole) and prenyl chloride 54 g (0.51 mole) was fed into a reaction flask containing 30 ml of toluene, sodium hydroxide 21.3 g, water 21.3 g and Aliquat 3361 g maintaining 100° C. The reaction mass was aged for 4 hours, cooled to 25° C. and neutralized with acetic acid. The organic layer was removed and distilled to give 20.5 g of 3-methyl-2-(3-methyl-2-butenyl)-2-cyclopenten-1-one. The 3-methyl-2-(3-methyl-2-butenyl)-2-cyclopenten-1-one had a Bp of 115° C. at 5 mmHg.

reactant | 3-methyl-2-cyclopentenone | 0.25 mole, 24.5 g | CC1=CC(CC1)=O | C6H8O
reactant | prenyl chloride | 0.51 mole, 54 g | C(C=C(C)C)Cl | C5H9Cl
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 21.3 g | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 21.3 g | O | H2O
product | 3-methyl-2-(3-methyl-2-butenyl)-2-cyclopenten-1-one | 20.5 g | CC1=C(C(CC1)=O)CC=C(C)C | C11H16O
